US05998416
Step 1: 5-Methoxymethylpyridin-3-ylboronic acid
To a solution of n-butyl lithium in hexane (6 ml of a 1.6M solution) in diethyl ether (40 ml) at -100° C. under nitrogen was added dropwise 3-bromo-5-methoxymethylpyridine (1.2 g, 6 mmol) (WO 95/28400) in diethyl ether (20 ml). After stirring for 45 minutes at -100° C., trimethyl borate (1.1 ml, 9.8 mmol) was added and the reaction mixture stirred at -100° C. for an extra 75 minutes. Water was added followed by 4N aqueous sodium hydroxide when the temperature reached 10° C. The aqueous layer was decanted, acidified to pH 5 with 2N aqueous hydrochloric acid and extracted 5 times with dichloromethane. The combined organics were dried (sodium sulphate) and evaporated to give the title compound as an oil (100 mg, 10%). MS, m/z 168 for (M+H)+. Rf 0.05 in ammonia/methanol/dichloromethane (1/10/90) on silica plate.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-bromo-5-methoxymethylpyridine | 6 mmol, 1.2 g | BrC=1C=NC=C(C1)COC | C7H8BrNO
reactant | trimethyl borate | 9.8 mmol, 1.1 ml | B(OC)(OC)OC | C3H9BO3
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | 5-Methoxymethylpyridin-3-ylboronic acid | 100 mg, 10% | COCC=1C=C(C=NC1)B(O)O | C7H10BNO3
